US07384963B2
N-Ethyl-N-(4-methoxybenzyl)-2′-methyl-5′-(5-methyl- 1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from N-(4-methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide and iodoethane using method L. NMR; δH [2H6]—DMSO 7.89,(1H, d), 7.75,(1H, s), 7.55-7.47,(5H, m), 7.30,(1H, m), 6.92,(2H, d), 4.64-4.45,(2H, m), 3.74,(3H, s), 3.34-3.16,(2H, m), 2.55,(3H, s), 2.31,(3H, s), 1.05,(3H, b). LCMS; retention time 3.54 min, MH+ 442.

reactant | N-(4-methoxybenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | COC1=CC=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=C1 | C25H23N3O3
reactant | iodoethane | ICC | C2H5I
product | N-Ethyl-N-(4-methoxybenzyl)-2′-methyl-5′-(5-methyl- 1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | C(C)N(C(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C)CC1=CC=C(C=C1)OC | C27H27N3O3
